US05480884
2-Amino-4-(1',2',3'-trihydroxybutanoyl)-4-hydroxy-5-oxoimidazoline
A mixture of L-ascorbic acid (0.314 mol; 55.4 g) and p-benzoquinone in 470 ml of ethanol is stirred in darkness under argon for 90 min; then an ethanolic solution (100 ml) of guanidine (0.157 mol) (previously desalified with sodium hydroxide in ethanol) is then added. The medium is stirred at room temperature under argon in darkness for 6 h. The precipitate which forms is filtered, washed with ethanol and dried under vacuum (m=30 g; yield=100%).

reactant | L-ascorbic acid | 0.314 mol, 55.4 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | guanidine | 0.157 mol, 100 ml | NC(=N)N | CH5N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 470 ml | C(C)O | C2H6O
product | 2-Amino-4-(1',2',3'-trihydroxybutanoyl)-4-hydroxy-5-oxoimidazoline | yield=100% | NC=1NC(C(N1)(O)C(C(=O)O)(C(C)O)O)=O | C7H11N3O6
